reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[C:3]([O:4][H:12])(=[C:5]=[N:6][H:7])[H:11].[N:1](=[C:2]([H:9])[H:10])[H:8],57.95184282496739
[C:1]([n:2]1[c:3]([H:10])[n:4][n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1](=[N+:2]1[C:3]([H:7])([H:10])[N:4][N:5]=[N:6]1)([H:8])[H:9],110.581661065855
[O:1]=[C:2]([O:3][C:4]([N+:6]#[C-:5])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([O:3][C:4]([C:5]#[N:6])([H:8])[H:9])[H:7],39.2190666603658
[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]1([H:12])[H:13]>>[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:4](=[C:3]([H:10])[H:11])[C:5]1([H:12])[H:13],94.3035721764673
[N:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:10])[H:9])([H:7])[H:8]>>[N:1](=[C:2](/[O:3][H:8])[N:4]([C:5](=[O:6])[H:10])[H:9])\[H:7],45.401173728397204
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([H:11])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10].[O:3]=[C:4]=[O:5],76.2850941552027
[C:1]([C:2]([C:3]([O+:5]=[C-:4][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],49.72057158391449
[C-:5]#[O+:6].[C:1]([O:2][C:3](=[C:4]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[H:13][H:14]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],44.0877117615976
[C-:5]#[O+:6].[C:1]([N:2]([C:3][N:4]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],27.180615359895803
[O:1]1[C:2]([H:8])([H:9])[C:3]1([H:10])[H:11].[O:4]=[C:5]([O:6][H:7])[H:12]>>[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],48.141590498442
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:4][H:14])([H:8])([H:9])[H:10].[C:2](=[C:3]([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12],115.273912314802
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[O:3][C@:4]1([H:10])[C:5]([H:11])=[C:6]2[H:12]>>[C:1]1([H:7])([H:8])[C@@:2]([C:6](=[C:5]([H:10])[H:11])[H:12])([H:9])[O+:3]=[C-:4]1,69.2534528974687
[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C@:5]1([H:14])[C:4]([H:12])([H:13])[O:6]1)([H:10])[H:11])([H:7])([H:8])[H:9],81.8320386295502
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1](=[N:2][C:3]([H:10])([H:11])[H:12])([H:7])[H:9].[C:4](=[O:5])([C:6]([H:13])([H:14])[H:15])[H:8],92.00407852590851
[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]1=[C+:7][C:6]([H:12])([H:13])[N:5]([H:11])[N-:4]1)([H:8])([H:9])[H:10],79.0238104047927
[C:1](#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[C:1](#[C:2][C@@:3]1([H:7])[C-:4]([H:8])[N+:5]1([H:9])[H:10])[H:6],66.8335168072585
[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[N:5]1[C:6]([H:15])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N:5]([C:4]([C:3](=[C:2]([H:10])[H:11])[H:12])([H:13])[H:14])[C:6]([H:15])([H:16])[H:17])([H:7])([H:8])[H:9],107.560089854179
[C:1]([C+:2]([C:3]([H:12])([H:13])[H:14])[C:4](=[C:5]=[C:6]([O-:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],24.93905016385729
[O:1]([C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C:3]([C:4][O:5][H:11])([H:9])[H:10])([H:7])[H:8])[H:6],79.9597667309633
[C:1]([C:2]([C:3]([C:4]([C:5]#[C:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:13])[H:14])[H:12])([H:8])([H:9])[H:10].[C:4](=[C:5]=[C:6]([C:7]([H:17])([H:18])[H:19])[H:11])([H:15])[H:16],59.8061912847048
[N:1]1([H:7])[C-:2]=[O+:6][C:5]([H:10])([H:11])[C:4]([H:9])=[C:3]1[H:8]>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],62.460444335746224
[N+:1](#[C-:2])[N+:4]#[C-:3]>>[N:1]#[C:2][C:3]#[N:4],41.97240547016919
[C:1]1([H:9])([H:10])[C@:2]([C:3]([H:12])([H:13])[H:14])([H:11])[C@@:4]1([C:5]([H:16])([H:17])[H:18])[H:15].[C:6](#[N:7])[H:8]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11])([H:8])([H:9])[H:10],85.1707083223051
[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[C@:3]([N:4]([H:13])[H:14])([H:12])/[C:5]1=[N:6]/[H:7]>>[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],80.5374595416723
[N:1](=[C:2]1/[O:3][C:4]([H:9])([H:10])[C-:5]=[N+:6]1[H:8])\[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7],65.33397548580511
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7]>>[C:2]1([H:8])=[C:4]([H:11])[C:3]1([H:9])[H:10].[O:1]([C:5]#[N:6])[H:7],98.55274593243472
